US07795255B2
As depicted in Scheme 31 below, 2-(4-nitro-phenyl)-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester (0.1 mmol) is dissolved in 2-propanol (10 ml) and hydrazine (0.11 mmol) is added. The resulting mixture is heated at 80° C., while monitoring the reaction progress by TLC. Once the reaction is completed (the starting material is no longer detected), the solvents are evaporated under reduced pressure, dioxane (20 ml) is added to the crude mixture, followed by addition of ethyl 4-bromobutyrate (0.1 mmol) and triethylamine (0.1 mmol), and the resulting mixture is heated to reflux, while monitoring the reaction progress by TLC. Once the reaction is completed (the starting material is no longer detected), the solvent is evaporated, and a mixture of ethyl acetate and water is added. The phases are separated, and the aqueous phase is extracted with ethyl acetate. The combined organic phase is dried over Na2SO4, and the solvents are evaporated under reduced pressure to give crude 4-{N′-[2-(4-Nitro-phenyl)-4H-furo[3,2-b]pyrrole-5-carbonyl]-hydrazino}-butyric acid ethyl ester which is purified by column chromatography.

reactant | 2-(4-nitro-phenyl)-4H-furo[3,2-b]pyrrole-5-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C1=CC2=C(N1)C=C(O2)C2=CC=C(C=C2)[N+](=O)[O-] | C15H12N2O5
reactant | hydrazine | 0.11 mmol | NN | H4N2
reactant | ethyl 4-bromobutyrate | 0.1 mmol | BrCCCC(=O)OCC | C6H11BrO2
reactant | triethylamine | 0.1 mmol | C(C)N(CC)CC | C6H15N
solvent | 2-propanol | 10 ml | CC(C)O | C3H8O
product | 4-{N′-[2-(4-Nitro-phenyl)-4H-furo[3,2-b]pyrrole-5-carbonyl]-hydrazino}-butyric acid ethyl ester | C(C)OC(CCCNNC(=O)C1=CC2=C(N1)C=C(O2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C19H20N4O6
